US04039589
A solution of 20 g. of 4-hydroxy-benzophenone in 180 ml. of dry ether is added, within about 30 minutes, to a 0° C. solution of 184 ml. of a 3.4 molar tetrahydrofuran solution of vinyl magnesium chloride, and the reaction mixture is stirred at the same temperature for additional 1 hour. The mixture is allowed to stand at room temperature overnight. Thereafter the mixture is poured onto ice water containing ammonium chloride. The etheral phase is separated, washed with water until neutral, dried over anhydrous mganesium sulfate, and the solvent is evaporated. 22.6 g. of crude 4-hydroxy-α-vinyl-benzhydrol are obtained. After recrystallization from a mixture of ethyl acetate and n-hexane, the product melts at 104°-105° C.

reactant | 4-hydroxy-benzophenone | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | ether | CCOCC | C4H10O
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3.4 molar | O1CCCC1 | C4H8O
product | 4-hydroxy-α-vinyl-benzhydrol | OC1=CC=C(C(C2=CC=CC=C2)(O)C=C)C=C1 | C15H14O2
